US07612114B2
6-{2-{Ethyl[4-(8-methyl-8-azabicyclo[3.2.1 ]oct-3-yloxy)benzyl]amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
To a solution of pivalic acid 6-{2-{ethyl[4-(8-methyl-8-azabicyclo[3.2.1 ]oct-3-yloxy)benzyl]amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (19 mg) in ethanol (1 ml) was added an aqueous solution of 1N sodium hydroxide (0.2 ml), and the solution was stirred for 1.5 hours at 60° C. The solution was neutralized with 1N hydrochloric acid, extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by NH silica gel column chromatography (ethyl acetate-methanol system) to provide the title compound (12 mg).

reactant | pivalic acid 6-{2-{ethyl[4-(8-methyl-8-azabicyclo[3.2.1 ]oct-3-yloxy)benzyl]amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 19 mg | C(C)N(C1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O)CC1=CC=C(C=C1)OC1CC2CCC(C1)N2C | C39H50N2O4
reactant | sodium hydroxide | 1N, 0.2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 6-{2-{Ethyl[4-(8-methyl-8-azabicyclo[3.2.1 ]oct-3-yloxy)benzyl]amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 12 mg | C(C)N(C1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)O)CC1=CC=C(C=C1)OC1CC2CCC(C1)N2C | C34H42N2O3
